US08466168B2
9.i. rac-3-cyano-2-(3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid ethyl ester
LiRMDS in THF (1M; 12.5 mL) was added at −78° C. during 15 min to a solution of (3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-acetic acid ethyl ester (3.00 g; prepared in analogy to the corresponding methyl ester described in WO 2007/122258) in THF (30 mL). The resulting orange mixture was stirred at −78° C. for 2 h. Bromoacetonitrile (1.13 mL) was added dropwise and the reaction mixture was further stirred at −78° C. for 2 h. The reaction mixture was treated with water and extracted with EA. The combined org. phases were washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by CC (Hept/EA 2:1 to 1:1) affording a yellow oil (3.09 g; 89.7% yield).

reactant | (3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=NC2=CC=C(N=C12)OC)F)=O | C13H13FN2O3
reactant | Bromoacetonitrile | 1.13 mL | BrCC#N | C2H2BrN
reactant | water | O | H2O
solvent | THF | 1M, 12.5 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | rac-3-cyano-2-(3-fluoro-6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid ethyl ester | 89.7% yield | C(C)OC(C(CC#N)C1=C(C=NC2=CC=C(N=C12)OC)F)=O | C15H14FN3O3
